US07196090B2
2-Fluoro-3,5-dimethoxy benzoic acid
A suspension of 66.7 g (0.27 mol) of 2-fluoro-3,5-dimethoxy-benzoic acid methyl ester and 27 g (0.675 mol) of solid sodium hydroxide in 815 mL of anhydrous ethanol was refluxed for 24 hours. The ethanol was concentrated in vacuo and the solid residue was dissolved in water and extracted two times with ethyl ether. The aqueous layer was acidified with concentrated hydrochloric acid and a white precipitate was filtered, washed with cold water and dried in vacuo to afford 53.9 g (86.5%) of the title compound. MS (APCI) (m+1)/z 201.0.

reactant | 2-fluoro-3,5-dimethoxy-benzoic acid methyl ester | 0.27 mol, 66.7 g | COC(C1=C(C(=CC(=C1)OC)OC)F)=O | C10H11FO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 815 mL | C(C)O | C2H6O
product | 2-Fluoro-3,5-dimethoxy benzoic acid | 53.9 g, 86.5% | FC1=C(C(=O)O)C=C(C=C1OC)OC | C9H9FO4
